US07122545B2
0.40 g 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid and 0.25 g 1,1′-carbonyl-diimidazole in 40 ml DMF were stirred at room temperature for 1.5 hours. 0.27 g 2-amino-1-(2-thienyl)ethanone hydrochloride and 0.15 g triethylamine were added and stirring was continued over night at room temperature. 350 ml water was added and the mixture was extracted with ethylacetate. Chromatography on silicagel with ethylacetate/hexane 4:6 yielded 0.20 g (35%) 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-2-thiophen-3-yl-ethyl)-amide as a yellow solid; MS (ISP): m/e=418 (M+H+).

reactant | 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid | 0.40 g | COC1=CC=C(C2=C1N=C(S2)C(=O)O)N2CCOCC2 | C13H14N2O4S
reactant | 1,1′-carbonyl-diimidazole | 0.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-1-(2-thienyl)ethanone hydrochloride | 0.27 g | Cl.NCC(=O)C=1SC=CC1
reactant | triethylamine | 0.15 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 350 ml | O | H2O
product | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-2-thiophen-3-yl-ethyl)-amide | 0.20 g, 35% | O=C(CNC(=O)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)C2=CSC=C2 | C19H19N3O4S2
